US08859553B2
Step 2. 4-(4-Methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)aniline
4-Methyl-1-(2-(trifluoromethyl)-4-nitrophenyl)-1H-imidazole (1.1 g, 4.1 mmol) was suspended in 50 mL of anhydrous ethanol. The mixture was hydrogenated with 0.11 g of 10% Pd—C at 40 psi for 3 hrs. Then Pd—C was removed by filtration. The filtrate was evaporated to give the title compound 1.0 g as a yellow solid (102.0%). 1H NMR (300 MHz, CDCl3) δ: 7.42 (1H, s), 7.08-7.11 (1H, d, J=8.4 Hz), 6.99 (1H, d, J=2.4 Hz), 6.80-6.84 (1H, dd, J=2.1 and 8.4 Hz), 6.74 (1H, s), 4.14 (2H, brs), 2.27 (3H, s). LCMS: m/z [M+H]+ 242.0957.

reactant | 4-Methyl-1-(2-(trifluoromethyl)-4-nitrophenyl)-1H-imidazole | 4.1 mmol, 1.1 g | CC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H8F3N3O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd—C | 0.11 g | [Pd] | Pd
product | 4-(4-Methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)aniline | 1.0 g, 102.0% | CC=1N=CN(C1)C1=C(C=C(N)C=C1)C(F)(F)F | C11H10F3N3
